US07514464B2
5-Amino-1-(2,6-dichloro-4-trifluoromethyl-phenyl)-4-(1-Hydroxy-2,2,2-trifluoro-1-trifluoromethyl-ethyl)-1H-pyrazole-3-carbonitrile
5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole, see EP295117, (15 g, 46 mmol, 1 eq) was solubilised in hexafluoroacetone sesquihydrate and the reaction mixture was heated at 100° C. After 2 hours, a LC-MS showed completion (single peak [487]). After cooling to RT, ethyl acetate (500 ml) was added, and the whole crude was washed with water (50 ml) then brine (2×50 ml), then dried over magnesium sulphate, filtered and concentrated under vacuuo, yielding the title compound as a brown solid, containing traces of solvent (22 g), that is used as such in the next step.

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | NC1=CC(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N | C11H5Cl2F3N4
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
reactant | hexafluoroacetone sesquihydrate | O.FC(C(=O)C(F)(F)F)(F)F.O.O.FC(C(=O)C(F)(F)F)(F)F
product | 5-Amino-1-(2,6-dichloro-4-trifluoromethyl-phenyl)-4-(1-Hydroxy-2,2,2-trifluoro-1-trifluoromethyl-ethyl)-1H-pyrazole-3-carbonitrile | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C(C(F)(F)F)(C(F)(F)F)O | C14H5Cl2F9N4O
